Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][C:5][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-4.03164118795
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.58246382201
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12]>>[C:7]([H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],7.1656495408300005
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-6.06335196457
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12].[H:1],3.96912603325
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.79773371452
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-4.09002170535
[H:1][O:2]/[C:3]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.6152077054799998
[C:5]([H:6])([H:7])=[C:8][H:9].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-1.08978967578
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])([C:7][H:8])[H:12].[H:1][C:2]#[C:3][C:9]([H:10])[H:11],4.268792974
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.9592262131
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:3]([C:8]([H:9])([H:10])/[C:11](=[C:2]/[C:4]([H:5])([H:6])[H:7])[H:12])[H:13],2.93658153805
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.98550663261
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],0.93459380747
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4],6.02552948428
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([H:8])([H:9])[H:19].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],4.04211456468
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.32691429055
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],5.23244728182
[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.01661591562
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16],4.87289475259
[C:8]([H:9])([H:10])=[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],-1.5333645528100002
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.289600356519999
[C:8]([H:9])#[C:10][H:11].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],0.32483232841
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12],7.686273819480001
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.01702587746
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2],2.88032822454
